US07964613B2
tert-Butyl 2-[[2-(dimethylamino)ethyl](methyl)amino]acetate
A solution of N,N,N′-trimethylethylenediamine (899 mg, Tokyo Kasei Kogyo) in acetonitrile (31 ml) was cooled to 0° C., added with potassium carbonate (2.21 g, and then slowly added dropwise with tert-butyl bromoacetate (1.56 g, Wako Pure Chemical Industries), and the mixture was stirred at the same temperature for 12 hours. The reaction mixture was added with ethyl acetate, and the insoluble solids were removed by filtration through Celite. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (methanol:chloroform=1:10) to obtain the title compound (1.25 g).

reactant | N,N,N′-trimethylethylenediamine | 899 mg | CN(CCNC)C | C5H14N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 1.56 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 31 ml | C(C)#N | C2H3N
product | tert-Butyl 2-[[2-(dimethylamino)ethyl](methyl)amino]acetate | 1.25 g | CN(CCN(CC(=O)OC(C)(C)C)C)C | C11H24N2O2
